US08455488B2
Synthesis of 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethyl)-1-methyl-4-(naphthalen-1-ylmethyl)semicarbazide (Compound II-55)
According to the procedure described in the synthesis method of Compound II-15, 2-(1-methyl-2-(naphthalen-1-ylmethylcarbamoyl)hydrazinyl)acetic acid (Compound VI-8) 67 mg (0.23 mmol) was coupled with (S)-2-amino-N1—((S)-1,1-diethoxypropan-2-yl)-N1-(quinolin-8-ylmethyl)-N4-tritylsuccinamide IV-20) 100 mg (0.16 mmol) to obtain the title compound.

reactant | 2-(1-methyl-2-(naphthalen-1-ylmethylcarbamoyl)hydrazinyl)acetic acid | 0.23 mmol, 67 mg | CN(NC(NCC1=CC=CC2=CC=CC=C12)=O)CC(=O)O | C15H17N3O3
reactant | (S)-2-amino-N1—((S)-1,1-diethoxypropan-2-yl)-N1-(quinolin-8-ylmethyl)-N4-tritylsuccinamide | N[C@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)CC(=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H44N4O4
product | 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethyl)-1-methyl-4-(naphthalen-1-ylmethyl)semicarbazide | C(C)OC([C@H](C)N(C([C@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)NC(CN(NC(=O)NCC1=CC=CC2=CC=CC=C12)C)=O)=O)CC=1C=CC=C2C=CC=NC12)OCC | C55H59N7O6
